US07435815B2
N,N-Diethyl-2-[(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetamide
prepared by reaction of 2-bromoacetyl bromide with diethylamine and N-(6-methoxy-pyridin-3-yl)-2-methyl-benzenesulfonamide

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | N-(6-methoxy-pyridin-3-yl)-2-methyl-benzenesulfonamide | COC1=CC=C(C=N1)NS(=O)(=O)C1=C(C=CC=C1)C | C13H14N2O3S
product | N,N-Diethyl-2-[(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetamide | C(C)N(C(CN(S(=O)(=O)C=1C(=CC=CC1)C)C=1C=NC(=CC1)OC)=O)CC | C19H25N3O4S
